US04119710
1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-isopropylamino-ethanol,
m.p. of the hydrochloride: 185°-188° C., was prepared from 4'-amino-3'-chloro-5'-cyano-2-isopropylamino-acetophenone and sodium borohydride analogous to Example 2.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-chloro-5'-cyano-2-isopropylamino-acetophenone | NC1=C(C=C(C=C1C#N)C(CNC(C)C)=O)Cl | C12H14ClN3O
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-isopropylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC(C)C)O)Cl | C12H16ClN3O
